US09381191B2
0.117 g (0.467 mmol) of (3-(phenylethynyl)imidazo[1,2-a]pyridin-2-yl) methanol were solubilised in 4 ml of tetrahydrofurane with magnetic stirring. 0.228 g (0.7 mmol) of cesium carbonate and 0.61 ml (0.513 mmol) of morpholine-4-carbonyl chloride were added. The mixture was stirred at r.t. for 16 h. 1.22 ml (1.026 mmol) of additional morpholine-4-carbonyl chloride were added and the mixture was stirred at r.t. for 2 d before being treated with 10 ml of a saturated NaCl aqueous solution. The aqueous phase was extracted with 3×10 ml of ethyl acetate. The combined organic phases were dried on Na2SO4 which was then removed by filtration. The crude residue was purified by preparative HPLC and 0.078 g (yield=46%) of (3-(phenylethynyl)imidazo[1,2-a]pyridin-2-yl)methylmorpholine-4-carboxylate were obtained as a beige solid. LC-MS: m/z=362 (MH+); UV purity at 254 nm=99%. 1H NMR (300 MHz, DMSO) δ 8.60 (d, J=6.7 Hz, 1H), 7.66 (dd, J=11.0, 5.4 Hz, 3H), 7.47 (dd, J=4.1, 1.3 Hz, 4H), 7.14 (t, J=6.4 Hz, 1H), 5.33 (s, 2H), 3.48 (s, 4H), 3.34 (s, 4H).

reactant | (3-(phenylethynyl)imidazo[1,2-a]pyridin-2-yl) methanol | 0.467 mmol, 0.117 g | C1(=CC=CC=C1)C#CC1=C(N=C2N1C=CC=C2)CO | C16H12N2O
reactant | cesium carbonate | 0.7 mmol, 0.228 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | morpholine-4-carbonyl chloride | 0.513 mmol, 0.61 ml | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
reactant | morpholine-4-carbonyl chloride | 1.026 mmol, 1.22 ml | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
reactant | NaCl | 10 ml | [Na+].[Cl-]
solvent | tetrahydrofurane | 4 ml | O1CCCC1 | C4H8O
product | (3-(phenylethynyl)imidazo[1,2-a]pyridin-2-yl)methylmorpholine-4-carboxylate | 0.078 g, yield=46% | C1(=CC=CC=C1)C#CC1=C(N=C2N1C=CC=C2)COC(=O)N2CCOCC2 | C21H19N3O3
